US07465815B2
4-Bromo-6-(2-hydroxy-1-(4-isopropylphenyl)-1-methylethyl)-2,3-dimethylphenol
Using 5-bromo-3-(4-isopropylphenyl)-3,6,7-trimethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 21, the title compound was synthesized in the same manner as in Reference Example 8. Yield 83%. Melting point: 110-111° C. (ethyl acetate-hexane).

reactant | 5-bromo-3-(4-isopropylphenyl)-3,6,7-trimethyl-1-benzofuran-2 (3H)-one | BrC=1C(=C(C2=C(C(C(O2)=O)(C)C2=CC=C(C=C2)C(C)C)C1)C)C | C20H21BrO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Bromo-6-(2-hydroxy-1-(4-isopropylphenyl)-1-methylethyl)-2,3-dimethylphenol | Yield 83% | BrC1=C(C(=C(C(=C1)C(CO)(C)C1=CC=C(C=C1)C(C)C)O)C)C | C20H25BrO2
